US08686005B2
Acetic acid 1-(2,4-dimethyl-phenoxymethyl)-2-(3-{6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-7-oxo-1,5,6,7-tetrahydro-1,3,6-triaza-s-indacen-2-yl}-2-oxo-1,2-dihydro-pyridin-4-ylamino)-ethyl ester:
A solution of 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (65 mg, 0.1 mmol) in HOAc (20 mL) was refluxed for 32 h and was evaporated. The residue was diluted with a mixed solvent of DCM/MeOH (1:5), basified with 28% aqueous NH4OH solution and concentrated. Chromatography of the residual crude with CH2Cl2/MeOH/28% aqueous NH4OH (110:10:1) followed by HPLC re-purification afforded the title compound in TFA salt form (8.69 mg, 11%). 1H NMR (DMSO-d6) δ 1.99-2.12 (4H), 2.05 (s, 3H, CH3), 2.16 (s, 3H, CH3), 2.22 (s, 3H, CH3), 3.15 (s, 3H, CH3), 3.25 (m, 2H), 3.52 (m, 2H), 3.60-3.78 (5H), 3.90 (s, 1H), 4.10-4.38 (4H), 4.49 (br s, 2H), 5.43 (br s, 2H, NH), 6.28 (d, J=8 Hz, 1H), 6.84 (d, J=6 Hz, 1H), 6.94 (d, J=6 Hz, 1H), 6.99 (s, 1H), 7.40 (m, 1H), 7.80 (br s, 1H), 9.80 (br s, 1H), 11.14 (br s, NH), 11.33 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 691.7 (MH+).

reactant | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 0.1 mmol, 65 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)CCS(=O)(=O)C)O)C=CC(=C1)C | C33H40N6O6S
reactant | HOAc | 20 mL | CC(=O)O | C2H4O2
product | Acetic acid 1-(2,4-dimethyl-phenoxymethyl)-2-(3-{6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-7-oxo-1,5,6,7-tetrahydro-1,3,6-triaza-s-indacen-2-yl}-2-oxo-1,2-dihydro-pyridin-4-ylamino)-ethyl ester | CC1=C(OCC(CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(CC4C=C3N2)C2CCN(CC2)CCS(=O)(=O)C)=O)OC(C)=O)C=CC(=C1)C | C35H42N6O7S
